US05866560
8.2 g of 7α-(5-acetoxypentyl)-11β-fluoro-3-hydroxy-estra-1,3,5(10)-trien-17-one in 86 ml of THF is stirred with 8.6 ml of 3,4-dihydro-2H-pyran and 820 mg of p-toluene-sulfonic acid hydrate for 2.5 hours at room temperature. Then, 0.5 ml of triethylamine is added, it is diluted with ethyl acetate, washed with saturated sodium chloride solution, dried and concentrated by evaporation in a vacuum. After the crude product is chromatographed on silica gel with a hexane-ethyl acetate gradient, 7.8 g of 7α-(5-acetoxypentyl)-11β-fluoro-3-(tetrahydropyran-2-yloxy)-estra-1,3,5(10)-trien-17-one is obtained as foam.

reactant | 7α-(5-acetoxypentyl)-11β-fluoro-3-hydroxy-estra-1,3,5(10)-trien-17-one | 8.2 g | C(C)(=O)OCCCCC[C@H]1[C@H]2[C@@H]3CCC([C@@]3(C)C[C@@H]([C@@H]2C=2C=CC(=CC2C1)O)F)=O | C25H33FO4
reactant | 3,4-dihydro-2H-pyran | 8.6 ml | O1CCCC=C1 | C5H8O
reactant | p-toluene-sulfonic acid hydrate | 820 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 86 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7α-(5-acetoxypentyl)-11β-fluoro-3-(tetrahydropyran-2-yloxy)-estra-1,3,5(10)-trien-17-one | 7.8 g | C(C)(=O)OCCCCC[C@H]1[C@H]2[C@@H]3CCC([C@@]3(C)C[C@@H]([C@@H]2C=2C=CC(=CC2C1)OC1OCCCC1)F)=O | C30H41FO5
